US07612060B2
Step (iii): Synthesis of (R)-4-(3,4-dichlorophenylsulfonyl)-3-((1-((R)-3-isobutyl-1,2,3,4,7,8,9,10-octahydrobenzo[f]isoquinolin-7-yl)-1H-1,2,3-triazol-4-yl)methyl)-3,4-dihydropyrazin-2(1H)-one
To a solution of ((R)-4-(3,4-dichlorophenylsulfonyl)-3-((1-((R)-1,2,3,4,7,8,9,10-octahydrobenzo[f]isoquinolin-7-yl)-1H-1,2,3-triazol-4-yl)methyl)-3,4-dihydropyrazin-2(1H)-one (220 mg, 0.384 mmol) and isobutyraldehyde (83 mg, 1.15 mmol) in 3 mL of 1,2-dichloroethane was added sodium triacetoxyborohydride (163 mg, 0.768 mmol) and the resulting solution was stirred at RT overnight. The reaction mixture was quenched with sat. NaHCO3, extracted with EtOAc, dried over Na2SO4, filtered and evaporated to dryness. Flash chromatography (SiO2, EtOAc to EtOAc/MeOH=100:7 to 100:12 to 100:14) afforded the title compound as a white solid.

reactant | (R)-4-(3,4-dichlorophenylsulfonyl)-3-((1-((R)-1,2,3,4,7,8,9,10-octahydrobenzo[f]isoquinolin-7-yl)-1H-1,2,3-triazol-4-yl)methyl)-3,4-dihydropyrazin-2(1H)-one | 0.384 mmol, 220 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1[C@@H](C(NC=C1)=O)CC=1N=NN(C1)[C@@H]1CCCC=2C=3CCNCC3C=CC21 | C26H26Cl2N6O3S
reactant | isobutyraldehyde | 1.15 mmol, 83 mg | C(C(C)C)=O | C4H8O
reactant | sodium triacetoxyborohydride | 0.768 mmol, 163 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
product | (R)-4-(3,4-dichlorophenylsulfonyl)-3-((1-((R)-3-isobutyl-1,2,3,4,7,8,9,10-octahydrobenzo[f]isoquinolin-7-yl)-1H-1,2,3-triazol-4-yl)methyl)-3,4-dihydropyrazin-2(1H)-one | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1[C@@H](C(NC=C1)=O)CC=1N=NN(C1)[C@@H]1CCCC=2C=3CCN(CC3C=CC21)CC(C)C | C30H34Cl2N6O3S
